US07772253B2
N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-benzamide
Benzoyl chloride (17 mg, 0.11 mmol), Et3N (20 μL, 0.15 mmol) and 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine (27 mg, 0.1 mmol) were shaken in DMF (0.5 ml) for 16 h, after which time the solvent was evaporated and the residue purified by reversed phase HPLC (MeCN:H2O) affording the title compound (22 mg, 60%). MS: 373.4 (MH+)

reactant | Benzoyl chloride | 0.11 mmol, 17 mg | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Et3N | 0.15 mmol, 20 μL | CCN(CC)CC | C6H15N
reactant | 1-(4-chloro-3-ethoxy-benzyl)piperidin-4-ylamine | 0.1 mmol, 27 mg | ClC1=C(C=C(CN2CCC(CC2)N)C=C1)OCC | C14H21ClN2O
solvent | DMF | 0.5 ml | CN(C)C=O | C3H7NO
product | N-[1-(4-Chloro-3-ethoxy-benzyl)piperidin-4-yl]-benzamide | 22 mg, 60% | ClC1=C(C=C(CN2CCC(CC2)NC(C2=CC=CC=C2)=O)C=C1)OCC | C21H25ClN2O2
